US05514680
The procedure of Wallace, R. G., Org. Prep. Proc. Int. 14:269 (1982) was adapted. 5,7-Dichloro-1,4-dihydroquinoxaline-2,3-dione (52 mg, 0.225 mmole) was dissolved in 3N KOH (1 mL) at 60° C. for 0.5 h, and NH2OSO3H (30 mg, 0.265 mmole, Aldrich) in distilled water (0.5 mL) was dropwise added into above solution with stirring at 60° C. Some precipitate came out after 15 mins. The mixture was stirred at room temperature overnight. The white precipitate was collected by filtration, washed with cold distilled water (0.5 mL) and dried on rotavapor at 60° C. for 2 h affording crude 1-amino-5,7-dichloro-1,4-dihydro-2,3-quinoxalinedione (38 mg, 69%), which included a little of the isomer (4-amino-5,7-dichloro-2,3-quinoxalinedione) by 1H NMR (it is not known which isomer is present in a greater amount).

reactant | 5,7-Dichloro-1,4-dihydroquinoxaline-2,3-dione | 0.225 mmole, 52 mg | ClC1=C2NC(C(NC2=CC(=C1)Cl)=O)=O | C8H4Cl2N2O2
reactant | NH2OSO3H | 0.265 mmole, 30 mg | NOS(=O)(=O)O | H3NO4S
solvent | KOH | 3N, 1 mL | [OH-].[K+]
solvent | water | 0.5 mL | O | H2O
product | 1-amino-5,7-dichloro-1,4-dihydro-2,3-quinoxalinedione | 38 mg, 69% | NN1C(C(NC2=C(C=C(C=C12)Cl)Cl)=O)=O | C8H5Cl2N3O2
